US07091215B2
2-Ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)-3-nitropyrazolo[1,5-a]pyridine (185 mg) was dissolved in a mixture of ethanol (7 mL) and water (7.5 mL), and then acetic acid (0.3 mL) and zinc powder (185 mg) were added and the reaction mixture was heated at 60° C. for 20 minutes. The reaction mixture was filtered with celite, and the obtained filtrate was concentrated under reduced pressure. Water was added, extraction was performed with ethyl acetate, the extract was washed with saturated aqueous sodium hydrogencarbonate and brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 2-ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-amine as a crude product.

reactant | 2-Ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)-3-nitropyrazolo[1,5-a]pyridine | 185 mg | C(C)C1=NN2C(C(=CC=C2C2=C(C=C(C=C2C)C)OC)OC)=C1[N+](=O)[O-] | C19H21N3O4
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | water | 7.5 mL | O | H2O
catalyst | zinc | 185 mg | [Zn] | Zn
product | 2-ethyl-4-methoxy-7-(2-methoxy-4,6-dimethylphenyl)pyrazolo[1,5-a]pyridin-3-amine | C(C)C1=NN2C(C(=CC=C2C2=C(C=C(C=C2C)C)OC)OC)=C1N | C19H23N3O2
